US05008263
2-Hydroxyimino-3-oxo-3-phenylpropanenitrile
A suspension of benzoylacetonitrile (11.7 g, 80.7 mmol) in a mixture of glacial acetic (34 ml) and water (1 ml) was stirred vigorously at 10° C. whilst an aqueous solution of sodium nitrite (6.1 g, 88.4 mmol in 7 ml) was added dropwise over 30 minutes. The mixture was stirred for 1 hour at room temperature and then poured into iced water (600 ml). The yellow solid which precipitated was filtered off, washed with water (100 ml) and dried, giving the title compound, 7.8 g (56%). m.p. 126°-128° C. (literature m.p. 117°-119° C.; Ger. Offen. 2,722,416 (1978).

reactant | benzoylacetonitrile | 80.7 mmol, 11.7 g | C(C1=CC=CC=C1)(=O)CC#N | C9H7NO
reactant | acetic | 34 ml | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
reactant | sodium nitrite | 88.4 mmol, 7 ml, 6.1 g | N(=O)[O-].[Na+]
solvent | water | 600 ml | O | H2O
solvent | water | 1 ml | O | H2O
product | 2-Hydroxyimino-3-oxo-3-phenylpropanenitrile | ON=C(C#N)C(C1=CC=CC=C1)=O | C9H6N2O2
